US09382228B2
A mixture of N-((5-((6′-(bis(tert-butoxycarbonyl)amino)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (0.23 g, 0.379 mmol) and TFA (0.44 mL, 5.7 mmol) in DCM (4 mL) was stirred at RT for 16 h. The mixture was concentrated to dryness, treated with satd. NaHCO3 and extracted with EtOAc (2×). The combined organics were washed with brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (MeOH/DCM) to afford N-((5-((6′-amino-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (125 mg, 81%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.21 (s, 1H), 10.45 (br s, 1H), 8.62 (d, J=2.5 Hz, 1H), 8.44 (d, J=5.7 Hz, 1H), 8.27 (d, J=2.9 Hz, 1H), 8.09 (d, J=9.0 Hz, 1H), 8.01 (dd, J=8.7, 2.5 Hz, 1H), 7.74 (dd, J=9.0, 2.9 Hz, 1H), 7.38 (d, J=2.4 Hz, 1H), 6.74 (dd, J=5.7, 2.4 Hz, 1H), 6.47 (d, J=8.7 Hz, 1H), 6.27 (d, J=4.7 Hz, 2H), 1.21 (s, 9H); MS (ESI) m/z: 407.2 (M+H+).

reactant | N-((5-((6′-(bis(tert-butoxycarbonyl)amino)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 0.379 mmol, 0.23 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O)C(=O)OC(C)(C)C | C31H38N6O7
reactant | TFA | 5.7 mmol, 0.44 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-((5-((6′-amino-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 125 mg, 81% | NC1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O | C21H22N6O3
